* Extracted by KLayout with SG13CMOS5L LVS runset on : 15/09/2026 00:13

.SUBCKT heichips26_dram_replica VAPWR VGND VPWR ui_in[0] ui_in[1] ui_in[2]
+ ui_in[3] uo_out[0]
M$1 VGND \$31 \$25 VGND sg13_lv_nmos L=0.13u W=0.3u AS=0.102p AD=0.057p
+ PS=1.28u PD=0.68u rfmode=0
M$2 \$25 ui_in[2] \$24 VGND sg13_lv_nmos L=0.13u W=0.9u AS=0.171p AD=0.216p
+ PS=2.04u PD=2.64u rfmode=0
M$5 \$17 ui_in[1] \$31 VGND sg13_lv_nmos L=0.13u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u rfmode=0
M$6 VPWR \$24 uo_out[0] VPWR sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u rfmode=0
M$7 \$17 \$28 uo_out[0] VPWR sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u rfmode=0
M$8 VPWR ui_in[2] \$28 VPWR sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u rfmode=0
M$9 VPWR ui_in[3] \$24 VPWR sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u rfmode=0
M$10 ui_in[0] ui_in[2] \$17 VPWR sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p
+ AD=0.1005p PS=1.34u PD=1.34u rfmode=0
M$11 VGND ui_in[2] \$28 VGND sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u rfmode=0
M$12 VGND \$24 uo_out[0] VGND sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p
+ AD=0.1005p PS=1.34u PD=1.34u rfmode=0
M$13 ui_in[0] \$28 \$17 VGND sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u rfmode=0
M$14 \$17 ui_in[2] uo_out[0] VGND sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p
+ AD=0.1005p PS=1.34u PD=1.34u rfmode=0
M$15 VGND VPWR VGND VGND sg13_lv_pmos L=10u W=10u AS=3.4p AD=3.4p PS=20.68u
+ PD=20.68u rfmode=0
M$16 VGND VAPWR VGND VGND sg13_lv_pmos L=10u W=10u AS=3.4p AD=3.4p PS=20.68u
+ PD=20.68u rfmode=0
.ENDS heichips26_dram_replica
