* PEX produced on Mon Sep 14 22:51:38 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from dram_replica_pex.ext - technology: ihp-sg13cmos5l

.subckt dram_replica_pex VPWR VAPWR VGND rst_n clk ena uio_in[7] uio_in[6]
+ uio_in[5] uio_in[4] uio_in[3] uio_in[2] uio_in[1] uio_in[0] ui_in[7] ui_in[6]
+ ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] uio_oe[7] uio_oe[6]
+ uio_oe[5] uio_oe[4] uio_oe[3] uio_oe[2] uio_oe[1] uio_oe[0] uio_out[7]
+ uio_out[6] uio_out[5] uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0]
+ uo_out[7] uo_out[6] uo_out[5] uo_out[4] uo_out[3] uo_out[2] uo_out[1]
+ uo_out[0]
X0 a_1790_1879# ui_in[2] VGND VGND.t1 sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X1 a_2816_1865# ui_in[1] a_2098_1879# VGND.t10 sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.13u
X2 uo_out[0] a_3132_1864# VGND VGND.t7 sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X3 a_3132_1864# ui_in[2] a_3030_1864# VGND.t3 sg13_lv_nmos ad=57f pd=0.68u as=57f ps=0.68u w=0.3u l=0.13u
X4 a_2098_1879# ui_in[2] uo_out[0] VGND.t2 sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X5 a_2098_1879# ui_in[2] ui_in[0] VPWR sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X6 VGND.t0 VPWR VGND.t0 VGND.t8 sg13_lv_pmos ad=3.4p pd=20.68u as=0 ps=0 w=10u l=10u
X7 a_3030_1864# ui_in[2] a_3132_1864# VGND.t4 sg13_lv_nmos ad=57f pd=0.68u as=57f ps=0.68u w=0.3u l=0.13u
X8 a_1790_1879# ui_in[2] VPWR VPWR sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X9 uo_out[0] a_3132_1864# VPWR VPWR sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X10 a_3132_1864# ui_in[3] VPWR VPWR sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X11 a_2098_1879# a_1790_1879# uo_out[0] VPWR sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X12 a_2098_1879# a_1790_1879# ui_in[0] VGND.t9 sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X13 a_3030_1864# a_2816_1865# VGND VGND.t6 sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.13u
X14 a_3132_1864# ui_in[2] a_3030_1864# VGND.t5 sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.13u
X15 VGND.t0 VAPWR VGND.t0 VGND.t0 sg13_lv_pmos ad=3.4p pd=20.68u as=0 ps=0 w=10u l=10u
R0 VGND.t7 VGND.t1 15238.2
R1 VGND.t1 VGND.t9 417.344
R2 VGND.t9 VGND.t2 417.344
R3 VGND VGND.t7 217.821
R4 VGND.t4 VGND.n1 77.2363
R5 VGND.n1 VGND.t3 60.9761
R6 VGND.t5 VGND 24.4718
R7 VGND.n0 VGND.t6 17.4231
R8 VGND VGND.t4 22.3183
R9 VGND VGND.t10 24.0409
R10 VGND.t2 VGND 217.819
R11 VGND VGND.n1 8.5005
R12 VGND.t8 VGND.t0 0.716537
R13 VGND.n0 VGND.t3 38.4795
R14 VGND VGND.t0 3.32119
R15 VGND VGND.n0 1.88061
C0 ui_in[2] ui_in[0] 0.1152f
C1 ui_in[2] ui_in[3] 6.01058f
C2 ui_in[2] a_1790_1879# 0.45597f
C3 a_2098_1879# ui_in[2] 0.0857f
C4 a_3132_1864# a_3030_1864# 0.28368f
C5 a_3132_1864# uo_out[0] 0.15712f
C6 a_3132_1864# ui_in[3] 0.03739f
C7 ui_in[2] VPWR 0.24973f
C8 a_3132_1864# a_1790_1879# 0.01229f
C9 ui_in[1] uo_out[0] 0.06036f
C10 a_3132_1864# VPWR 0.37245f
C11 ui_in[1] ui_in[0] 9.73224f
C12 ui_in[3] ui_in[1] 0.06418f
C13 ui_in[3] a_3030_1864# 0.01433f
C14 uo_out[0] ui_in[0] 0.06382f
C15 ui_in[3] uo_out[0] 0.30695f
C16 a_2816_1865# ui_in[2] 0.05334f
C17 a_2098_1879# ui_in[1] 0.51602f
C18 a_2098_1879# a_3030_1864# 0.01254f
C19 a_1790_1879# uo_out[0] 0.39457f
C20 a_2098_1879# uo_out[0] 0.34131f
C21 a_1790_1879# ui_in[0] 0.14151f
C22 ui_in[3] a_1790_1879# 0.01326f
C23 a_2098_1879# ui_in[0] 0.29526f
C24 a_2098_1879# ui_in[3] 0.02044f
C25 a_2098_1879# a_1790_1879# 0.36549f
C26 ui_in[1] VPWR 0.01413f
C27 a_3030_1864# VPWR 0.02093f
C28 VPWR uo_out[0] 1.11671f
C29 VPWR ui_in[0] 0.04984f
C30 ui_in[3] VPWR 0.61725f
C31 a_1790_1879# VPWR 0.21003f
C32 a_2098_1879# VPWR 0.16107f
C33 a_2816_1865# ui_in[1] 0.02115f
C34 a_3132_1864# ui_in[2] 0.1002f
C35 uio_oe[7] ui_in[0] 0.01618f
C36 a_2098_1879# a_2816_1865# 0.05039f
C37 ui_in[2] ui_in[1] 7.08533f
C38 ui_in[2] a_3030_1864# 0.06885f
C39 ui_in[2] uo_out[0] 0.82182f
C40 uo_out[1] VGND 0.02995f
C41 uo_out[2] VGND 0.02995f
C42 uo_out[3] VGND 0.02995f
C43 uo_out[4] VGND 0.02995f
C44 uo_out[5] VGND 0.02995f
C45 uo_out[6] VGND 0.02995f
C46 uo_out[7] VGND 0.02995f
C47 uio_out[0] VGND 0.02995f
C48 uio_out[1] VGND 0.02995f
C49 uio_out[2] VGND 0.02995f
C50 uio_out[3] VGND 0.02995f
C51 uio_out[4] VGND 0.02995f
C52 uio_out[5] VGND 0.02995f
C53 uio_out[6] VGND 0.02995f
C54 uio_out[7] VGND 0.02995f
C55 uio_oe[0] VGND 0.02995f
C56 uio_oe[1] VGND 0.02995f
C57 uio_oe[2] VGND 0.02995f
C58 uio_oe[3] VGND 0.02995f
C59 uio_oe[4] VGND 0.02995f
C60 uio_oe[5] VGND 0.02995f
C61 uio_oe[6] VGND 0.02995f
C62 uio_oe[7] VGND 0.02995f
C63 ui_in[4] VGND 0.03799f
C64 ui_in[5] VGND 0.03799f
C65 ui_in[6] VGND 0.03799f
C66 ui_in[7] VGND 0.03799f
C67 uio_in[0] VGND 0.03799f
C68 uio_in[1] VGND 0.03799f
C69 uio_in[2] VGND 0.03799f
C70 uio_in[3] VGND 0.03799f
C71 uio_in[4] VGND 0.03799f
C72 uio_in[5] VGND 0.03799f
C73 uio_in[6] VGND 0.03799f
C74 uio_in[7] VGND 0.03799f
C75 ena VGND 0.03799f
C76 clk VGND 0.03799f
C77 rst_n VGND 0.04448f
C78 uo_out[0] VGND 2.4659f
C79 ui_in[0] VGND 4.44618f
C80 VPWR VGND 2.67042f
C81 a_3030_1864# VGND 0.89837f
C82 a_3132_1864# VGND 2.67042f
C83 a_2098_1879# VGND 2.64582f
C84 VGND.t0 VGND 0.11074p
.ends

